US07902252B2
3.6. Synthesis of 5-benzyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (23)
The title compound was synthesized from methyl 5-benzyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.017 g, 0.065 mmol) and lithium hydroxide monohydrate (0.019 g, 0.45 mmol) according to General Procedure 7. The crude product was purified by reverse phase HPLC (40-100% MeOH: water, 0.1% formic acid), to give 5-benzyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (23) as a light brown solid (6.1 mg, 39%). Rf (1:1 EtOAc:heptane)=0.12; 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.30-2.49 (m, 2H), 2.62-2.90 (m, 4H), 3.08-3.20 (m, 1H), 6.57 (s, 1H), 7.16-7.30 (m, 5H); LCMS-MS (ESI+) 242.3 (M+H); HPLC (UV=100%), (ELSD=100%).

reactant | methyl 5-benzyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.065 mmol, 0.017 g | C(C1=CC=CC=C1)C1CC2=C(NC(=C2)C(=O)OC)C1 | C16H17NO2
reactant | lithium hydroxide monohydrate | 0.45 mmol, 0.019 g | O.[OH-].[Li+]
product | 5-benzyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | 6.1 mg, 39% | C(C1=CC=CC=C1)C1CC2=C(NC(=C2)C(=O)O)C1 | C15H15NO2
